US09034866B2
Synthesis of (R)-9-fluoro-10-(3-hydroxy-3-(pyridin-2-yl)but-1-yn-1-yl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide
Similar to as described in General Procedure F, reaction of 10-bromo-9-fluoro-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide with (R)-2-(pyridin-2-yl)but-3-yn-2-ol gave the titled compound.

reactant | 10-bromo-9-fluoro-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide | BrC=1C(=CC2=C(C=3N(C4CC2C4)C=C(N3)C(=O)N)C1)F | C14H11BrFN3O
reactant | (R)-2-(pyridin-2-yl)but-3-yn-2-ol | N1=C(C=CC=C1)[C@@](C)(C#C)O | C9H9NO
product | (R)-9-fluoro-10-(3-hydroxy-3-(pyridin-2-yl)but-1-yn-1-yl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide | FC1=CC2=C(C=3N(C4CC2C4)C=C(N3)C(=O)N)C=C1C#C[C@](C)(C1=NC=CC=C1)O | C23H19FN4O2
